US05358950
A solution of 10 g of 7-n-propyl-5-methyl-1,2,4-triazolo[1,5-c]pyrimidin-2(3H)-one, prepared in Example 193, in 120 ml of acetic acid containing 12 g of sodium acetate, and to which a solution of 2.6 ml of bromine in 50 ml of acetic acid has been added dropwise, is stirred at room temperature for 3 hours. The reaction mixture is then concentrated under vacuum and thereafter treated with water. The crystals formed are drained, washed with water and dried. 7 g of 7-n-propyl-5-methyl-8-bromo-1,2,4-triazolo[1,5-c]pyrimidin-2(3H)-one are thereby obtained in the form of crystals of melting point 221° C.

reactant | 7-n-propyl-5-methyl-1,2,4-triazolo[1,5-c]pyrimidin-2(3H)-one | 10 g | C(CC)C1=CC=2N(C(=N1)C)NC(N2)=O | C9H12N4O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | bromine | 2.6 ml | BrBr | Br2
solvent | acetic acid | 120 ml, 12 g | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 7-n-propyl-5-methyl-8-bromo-1,2,4-triazolo[1,5-c]pyrimidin-2(3H)-one | 7 g | C(CC)C1=C(C=2N(C(=N1)C)NC(N2)=O)Br | C9H11BrN4O
